* UDZV3_3B D model
* PKG: UMD2,Vz=3.3V at Iz=5mA,Pd=200mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/02/10
*****************A C
.SUBCKT UDZV3_3B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-2.400E-07*((-V*(1+5.639E-04*(TEMP-T0)+3.998E-12*(TEMP-T0)**2))**8.210E+00+
+           (-V*(1+5.639E-04*(TEMP-T0)+3.998E-12*(TEMP-T0)**2))**5.541E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=3.2882E-16
+ N=.99425
+ RS=.13069
+ IKF=87.092
+ CJO=6.5288E-11
+ M=.31953
+ VJ=.59311
+ ISR=1.1784E-11
+ NR=3.4000
+ BV=4.8000
+ TT=2.7000E-8
+ NBVL=4.5000
+ IBVL=6.0000
.MODEL D2 D
+ IS=3.2882E-16
+ N=.99425
+ RS=.13069
+ IKF=87.092
+ M=.31953
+ VJ=.59311
.ENDS UDZV3_3B















